US06376655B1
2-[4-(4-Nitrophenylazo)phenoxy]-ethanoic acid was prepared by hydrolysis of ethyl 2-[4-(4-nitrophenylazo)phenoxy]-ethanoate analogous with the preparation of 2-[4-(4-cyanophenyl-azo)phenoxy]-ethanoic acid.

reactant | ethyl 2-[4-(4-nitrophenylazo)phenoxy]-ethanoate | [N+](=O)([O-])C1=CC=C(C=C1)N=NC1=CC=C(OCC(=O)OCC)C=C1 | C16H15N3O5
reactant | 2-[4-(4-cyanophenyl-azo)phenoxy]-ethanoic acid | C(#N)C1=CC=C(C=C1)N=NC1=CC=C(OCC(=O)O)C=C1 | C15H11N3O3
product | 2-[4-(4-Nitrophenylazo)phenoxy]-ethanoic acid | [N+](=O)([O-])C1=CC=C(C=C1)N=NC1=CC=C(OCC(=O)O)C=C1 | C14H11N3O5
